US09061013B2
N-(3-fluoro-3-(4-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)phenyl)cyclobutyl)-2-(methylsulfonyl)acetamide
2-(methylsulfonyl)acetic acid (22 mg, 0.16 mmol) was added to 3-fluoro-3-(4-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)phenyl)cyclobutanamine (Preparation 16, 50.0 mg, 0.10 mmol) in DMF (1.5 mL) along with DIPEA (54 μL, 0.31 mmol) and HATU (61 mg, 0.16 mmol). The mixture is stirred for 3 days at room temperature. The reaction mixture is partitioned between brine (5 mL) and EtOAc (5 mL). The organics are separated, dried over MgSO4, filtered and evaporated to give a residue, which is purified on regular silica eluting from neat DCM to 15% MeOH/DCM to give the title compound (20 mg): 1H NMR (DMSO-d6) δ: 8.83 (1H, d), 7.85 (2H, s), 7.79 (2H, d), 7.58 (2H, d), 4.60-4.51 (1H, m), 4.42-4.30 (2H, m), 4.04 (2H, s), 3.12 (3H, s), 2.96-2.86 (2H, m), 2.65-2.54 (2H, m); m/z (Cl) 602.

reactant | 2-(methylsulfonyl)acetic acid | 0.16 mmol, 22 mg | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | 3-fluoro-3-(4-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)phenyl)cyclobutanamine | 0.10 mmol, 50.0 mg | FC1(CC(C1)N)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C20H15Cl3F4N2O
reactant | DIPEA | 0.31 mmol, 54 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.16 mmol, 61 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | N-(3-fluoro-3-(4-(5-(3,4,5-trichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)phenyl)cyclobutyl)-2-(methylsulfonyl)acetamide | 20 mg | FC1(CC(C1)NC(CS(=O)(=O)C)=O)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C23H19Cl3F4N2O4S
